US06262045B1
5.6. 9-Bromo-1-(bromomethyl)-5-methyl-3-phenyl-3,5-dihydro-4H-pyridazino[4,5-b]indol-4-one
A solution of 10.1 g (27.1 mmol) of 9-bromo-1,5-dimethyl-3-phenyl-3,5-dihydro-4H-pyridazino[4,5-b]indol-4-one, of 6 g (34 mmol) of N-bromosuccinimide and of 0.46 g (2.8 mmol) of 2,2′-azobis(2-methylpropionitrile) is heated at reflux for 5 h. 3 g (17 mmol) of N-bromosuccinimide and 0.23 g (1.4 mmol) of 2,2′-azobis(2-methylpropionitrile) are again added. The mixture is heated at reflux for 2 h, left at room temperature for 15 h and again heated at reflux for 5 h. The mixture is concentrated under reduced pressure and the residue is taken up in water and extracted with ethyl acetate. The organic phase is dried, the solvent is evaporated under reduced pressure and the residue is purified by chromatography on a column of silica gel. 5.9 g (13 mmol) of product are isolated.

reactant | 9-bromo-1,5-dimethyl-3-phenyl-3,5-dihydro-4H-pyridazino[4,5-b]indol-4-one | 27.1 mmol, 10.1 g | BrC=1C=2C3=C(N(C2C=CC1)C)C(N(N=C3C)C3=CC=CC=C3)=O | C18H14BrN3O
reactant | N-bromosuccinimide | 34 mmol, 6 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | 2,2′-azobis(2-methylpropionitrile) | 2.8 mmol, 0.46 g | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
reactant | N-bromosuccinimide | 17 mmol, 3 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | 2,2′-azobis(2-methylpropionitrile) | 1.4 mmol, 0.23 g | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
product | 9-Bromo-1-(bromomethyl)-5-methyl-3-phenyl-3,5-dihydro-4H-pyridazino[4,5-b]indol-4-one | 13 mmol, 5.9 g | BrC=1C=2C3=C(N(C2C=CC1)C)C(N(N=C3CBr)C3=CC=CC=C3)=O | C18H13Br2N3O
